US09126940B2
Isobutyl 2-(4-((1E,4E)-2-(tert-butoxycarbonylamino)-4-((3-(tert-butyldimethylsilyloxy)propyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)phenyl)acetate) was dissolved in 2 mls of dichloromethane and 0.5 ml of TFA. After about one hour, the mixture was concentrated under reduced pressure and the resulting residue was then re-dissolved in dichloromethane and 1 ml of concentrated ammonium hydroxide added and the mixture vigorously stirred for 15 minutes. This mixture was then diluted with water, extracted with dichloromethane (2×), extracts dried over sodium sulfate and concentrated under reduced pressure. Preparative thin layer chromatography (2×0.5 mm plates, 10% MeOH/DCM/0.5% NH4OH) afforded isobutyl 2-(4-((1E,4E)-2-amino-4-((3-hydroxypropyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)phenyl)acetate. 1H NMR (400 MHz, CDCl3) δ 7.27-7.39 (m, 5H), 7.19-7.21 (m, 1H), 7.01-7.06 (m, 1H), 6.87 (s, 1H), 3.80-3.85 (m, 2H), 3.58-3.69 (m, 6H), 3.46-3.53 (m, 2H), 2.82 (s, 2H), 1.80-1.89 (m, 3H), 1.66-1.75 (m, 2H), 0.90-0.98 (m, 3H), 0.81-0.87 (m, 6H); m/z (APCI-pos) M+1=492.3.

reactant | Isobutyl 2-(4-((1E,4E)-2-(tert-butoxycarbonylamino)-4-((3-(tert-butyldimethylsilyloxy)propyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)phenyl)acetate | C(C)(C)(C)OC(=O)N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C2=CC=C(C=C2)CC(=O)OCC(C)C)\C(N(CCC)CCCO[Si](C)(C)C(C)(C)C)=O | C40H59N3O6Si
solvent | dichloromethane | 2 mls | ClCCl | CH2Cl2
solvent | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | isobutyl 2-(4-((1E,4E)-2-amino-4-((3-hydroxypropyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)phenyl)acetate | N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C2=CC=C(C=C2)CC(=O)OCC(C)C)\C(N(CCC)CCCO)=O | C29H37N3O4
